* Lab 03 - Common-Source Amplifier
* IHP SG13G2

.lib cornerMOSlv.lib mos_tt

VDD VDD 0 1.2
VIN Vin 0 DC 0.45 AC 1
VBIAS Vbias 0 0.2966127

XM1 Vout Vin 0 0 sg13_lv_nmos
+ w=10u l=3.2u ng=1 m=1 mm_ok=1

XM2 Vout Vbias VDD VDD sg13_lv_pmos
+ w=10u l=3.2u ng=1 m=1 mm_ok=1

CL Vout 0 100f

.control

op

print v(vdd)
print v(vin)
print v(vbias)
print v(vout)

print i(VDD)

let Ptotal = -v(vdd)*i(VDD)
print Ptotal

show all

ac dec 100 1 10G

plot db(vout)

.endc

.end
